Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, rigors and shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .
Date: ___
Time: ___

_
________________________________________________________________

PCP: Name: ___ 
___: ___ MEDICAL GROUP 
Address: ___ 
Phone: ___ 
Fax: ___ 
_
________________________________________________________________

 

HPI: ___ w/hx of metastatic prostate cancer, COPD, and UC on 
prednisone and Imuran p/w an episode of rigors that woke him up 
from sleep at midnight tonight, associated with SOB. He lives in 
___ and flew to ___ on two days ago to visit his 
grandchildren. He felt unwell one day prior to admission but 
prior to that he felt OK. No antecedent illness. No localizing 
s/s of infection other than 1 loose, non-bloody stool. Woke up 
with rigors, upon sitting up, the patient became SOB, took 
albuterol and then neb with improvement. He has not had a cough. 
No foreign travel. No sick contacts. 
.
In ER: (Triage Vitals:103.2 108 107/65 16 91% Nasal Cannula  ) 
Meds Given: levofloxacin/acetominophen
Fluids given: 2L IVF
Radiology Studies:___ 
consults called: none
.

PAIN SCALE: ___ 
REVIEW OF SYSTEMS: lost 50 lbs since diagnosis of met prostate 
cancer secondary to anti-androgen treatment
CONSTITUTIONAL:  As per HPI
HEENT:  [X] All normal
RESPIRATORY:  [+] per HPI
CARDIAC:  [+]- no chest pain, but sob
GI:  In terms of his colitis he has ___ formed bms per day 
GU:  [+]urinary incontinence
SKIN:  [+] ecchymoses
MUSCULOSKELETAL:  [X] All normal
NEURO:  [X] All normal
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [X]  +easy brusing
PSYCH:  [X] All normal
All other systems negative except as noted above

 
Past Medical History:
Ulcerative colitis- he has been on 10 mg of prednisone daily 
since ___
Metastatic prostate cancer
He was first diagnosed in prostate cancer in ___ s/p radical 
prostatectomy complicated by urinary incontinence
- diagnosed a year ago- cancer stable for 8 months. S/p 
treatment with taxotere and anti-androgen therapy c/b cdiff 
requiring ICU stay. 
 
Social History:
___
Family History:
His father died of cancer at age ___- ? 
pancreas/esophagus/stomach
Mother died of heart failure at age ___. Brother ___ with renal 
cell cancer on sutent for the past ___ years. 
 
Physical Exam:
Vitals:  T 98.2  P 98  BP 94/57  RR 18 SaO2 = 98% on RA 
GEN: NAD, comfortable appearing, pale, very pleasant  
HEENT: ncat anicteric MMM  
NECK:  supple
CV: s1s2 rr no m/r/g  
RESP: diminished breath sounds throughout 
ABD: +bs, soft, NT, ND, no guarding or rebound  
back:  
EXTR:no c/c/e 2+pulses  
DERM: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  

 
Pertinent Results:
___ 02:52AM URINE  HOURS-RANDOM
___ 02:52AM URINE  UHOLD-HOLD
___ 02:52AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 02:52AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 02:52AM URINE  RBC-1 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-0 TRANS EPI-<1
___ 02:52AM URINE  MUCOUS-RARE
___ 02:35AM   ___ PTT-24.9* ___
___ 02:30AM   LACTATE-2.2*
___ 02:20AM   GLUCOSE-82 UREA N-15 CREAT-0.8 SODIUM-135 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-22 ANION GAP-17
___ 02:20AM   estGFR-Using this
___ 02:20AM   ALT(SGPT)-6 AST(SGOT)-18 ALK PHOS-52 TOT 
BILI-0.8
___ 02:20AM   ALBUMIN-3.6 CALCIUM-8.7 PHOSPHATE-2.9 
MAGNESIUM-1.9
___ 02:20AM   WBC-7.0 RBC-4.12* HGB-11.4* HCT-33.7* MCV-82 
MCH-27.7 MCHC-33.8 RDW-15.7* RDWSD-45.9
___ 02:20AM   NEUTS-84.7* LYMPHS-7.5* MONOS-4.7* EOS-2.0 
BASOS-0.7 IM ___ AbsNeut-5.88 AbsLymp-0.52* AbsMono-0.33 
AbsEos-0.14 AbsBaso-0.05
___ 02:20AM   PLT COUNT-224
======================================

ECG: Sinus tach at 127 bpm, QTC = 419, PR = 139
___ 02:20AM BLOOD WBC-7.0 RBC-4.12* Hgb-11.4* Hct-33.7* 
MCV-82 MCH-27.7 MCHC-33.8 RDW-15.7* RDWSD-45.9 Plt ___
___ 07:50AM BLOOD Lactate-1.5
.
CXR ___:
FINDINGS:   
Compared with prior radiographs on ___, again seen 
is a 
retrocardiac opacity. No pleural effusion or pneumothorax is 
seen.  There is no edema.  The cardiac and mediastinal 
silhouettes are unchanged.  Again seen is widespread multifocal 
osteoblastic disease. 
  
IMPRESSION:   
1.  Left lower lobe pneumonia. 
2.  No change in widespread, multifocal osteoblastic disease. 

 
Brief Hospital Course:
Pt is a ___ y.o male with h.o metastatic prostate cancer, 
ulcerative colitis on prednisone who presented with concern for 
pneumonia.  
 .  
 #community acquired pneumonia-Pt had a fever on admission to 
the ED. However this quickly resolved. He did not have a 
leukocytosis. He denied any localizing signs of infection such 
as cough, SOB, dysuria, abdominal pain, nausea, vomiting or 
diarrhea. Of note, his lactate quickly normalized with IVF. He 
was on room air on arrival to the floor and remained on room air 
without tachypnea or fever during admission.  CXR revealed 
concern for pneumonia and pt was treated with levofloxacin for a 
5 day course. Initially he did have fever, elevated lactate and 
was mildly hypotensive with SBP in the ______. However, this all 
resolved prior to discharge and pt reports that his BP tends to 
run on the low side.  Pt requested to be discharged on ___. BCX 
and ucx (u/a unrevealing) still pending at the time of 
discharge. He was instructed to f/u with his PCP within ___ week 
of discharge upon his arrival to ___.  
 .  
 #ulcerative colitis-continued home prednisone. Pt will need to 
d/w his GI if should continue Imuran. He was encouraged to call 
his GI physician to discuss if he should continue in the setting 
of infection.   
 .  
 #metastatic prostate cancer-s/p prostatectomy. s/p taxotere and 
antiandrogen therapy.  Pt encouraged to follow up with his outpt 
oncologist. 
 .  
 FEN: regular diet  
 .  
DVT PPx:hep SC TID  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 10 mg PO DAILY 
2. ALPRAZolam 0.5 mg PO BID:PRN anxiety 
3. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral QID 
4. LOPERamide 2 mg PO QID:PRN diarrhea 
5. Omeprazole 20 mg PO DAILY 
6. Azathioprine 100 mg PO DAILY 
7. albuterol sulfate 90 mcg/actuation inhalation BID 
8. Ipratropium Bromide Neb 1 NEB IH BID 

 
Discharge Medications:
1. ALPRAZolam 0.5 mg PO BID:PRN anxiety 
2. Ipratropium Bromide Neb 1 NEB IH BID 
3. Omeprazole 20 mg PO DAILY 
4. PredniSONE 10 mg PO DAILY 
5. albuterol sulfate 90 mcg/actuation inhalation BID 
6. Azathioprine 100 mg PO DAILY 
PLEASE CALL YOUR GI DOCTOR TO DISCUSS IF YOU SHOULD CONTINUE 
WHILE HAVING PNEUMONIA. 
7. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral QID 
8. LOPERamide 2 mg PO QID:PRN diarrhea 
9. Levofloxacin 750 mg PO DAILY Duration: 4 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth DAILY Disp #*4 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pneumonia

Chronic
metastatic prostate cancer
ulcerative colitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of shaking chills. Your chest 
xray revealed concern for pneumonia. Therefore, we will treat 
you with an antibiotic called levofloxacin for a total of 5 
days. Please be sure to follow up with your PCP ___ 
you return to ___ later in the week. 
Please call your gastroenterologist today to discuss whether you 
should continue your Imuran while being treated for a pneumonia. 

Some of your blood work is still PENDING at the time of 
discharge. 
 
Followup Instructions:
___